US09359362B2
tert-Butyl N-[(benzyloxy)carbonyl]-N-{(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}glycinate
Potassium carbonate (8.0 mg, 58 μmol, 1.6 eq.) and tert-butyl bromoacetate (11.2 mg, 58 μmol, 1.6 eq.) were added to a solution of benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate (20 mg, 36 μmol) in dry DMF (5 ml). The reaction mixture was stirred at RT for 12 h and then concentrated under reduced pressure, and the residue purified by preparative HPLC (Kromasil C18 column, 5 μm, 50×20 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (25 mg, 76% of theory).

reactant | Potassium carbonate | 58 μmol, 8.0 mg, 1.6 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 58 μmol, 11.2 mg, 1.6 eq. | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate | 36 μmol, 20 mg | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(OCC2=CC=CC=C2)=O)C2=CC(=CC=C2)C(F)(F)F)C | C29H20F3N7O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | tert-Butyl N-[(benzyloxy)carbonyl]-N-{(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}glycinate | C(C1=CC=CC=C1)OC(=O)N(CC(=O)OC(C)(C)C)C1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C35H30F3N7O4
